US07989462B2
(2-Chloro-6-nitroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine
The title compound was prepared from 2,4-dichloro-6-nitro-quinazoline and 4-methoxy-N-methylaniline by a procedure similar to example 10. 1H NMR (CDCl3): 8.31 (dd, J=9.6, 3.6, 1H), 7.78 (d, J=9.3, 1H), 7.73 (d, J=2.4, 1H), 7.21 (m, 2H), 7.06 (m, 2H), 3.90 (s, 3H), 3.69 (s, 3H).

reactant | 2,4-dichloro-6-nitro-quinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)[N+](=O)[O-] | C8H3Cl2N3O2
reactant | 4-methoxy-N-methylaniline | COC1=CC=C(NC)C=C1 | C8H11NO
product | (2-Chloro-6-nitroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H13ClN4O3
